US09163008B2
A solution of methyl 2-chloro-6-((3S,4S)-3,4-dihydroxypyrrolidin-1-yl)pyrimidine-4-carboxylate (1.132 g, 4.14 mmol) in 7M ammonia in MeOH (12 mL) was allowed to sit at ambient temperature overnight. The reaction mixture was evaporated in vacuo and the residue was taken up in EtOAc (10 mL). The residue first dissolved then quickly precipitated a solid. After cooling back down to ambient temperature the precipitated solid was filtered off then dried under vacuum at 40° C. to give 2-chloro-6-((3S,4S)-3,4-dihydroxypyrrolidin-1-yl)pyrimidine-4-carboxamide as a tan powder (0.969 g, 3.75 mmol, 91% yield). LC/MS: m/z=259.2 [M+H]+.

reactant | methyl 2-chloro-6-((3S,4S)-3,4-dihydroxypyrrolidin-1-yl)pyrimidine-4-carboxylate | 4.14 mmol, 1.132 g | ClC1=NC(=CC(=N1)C(=O)OC)N1C[C@@H]([C@H](C1)O)O | C10H12ClN3O4
reactant | ammonia | 7M | N | H3N
solvent | MeOH | 12 mL | CO | CH4O
product | 2-chloro-6-((3S,4S)-3,4-dihydroxypyrrolidin-1-yl)pyrimidine-4-carboxamide | 3.75 mmol, 0.969 g, 91% yield | ClC1=NC(=CC(=N1)C(=O)N)N1C[C@@H]([C@H](C1)O)O | C9H11ClN4O3
